data/nitro/train.csv
rxn,smiles,ea
183,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])(\[C:17]([H:18])([H:19])[H:20])[H:21]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[Br:16])([C:17]([H:18])([H:19])[H:20])[H:21],-11.222880813121922
854,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])(\[H:21])[Cl:22]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Cl:20])([H:21])[Cl:22],-2.730198967330663
40,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[H:22])([C:23]([H:24])([H:25])[H:26])[C:27]([H:28])([H:29])[H:30]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[c:11]1[c:12]([H:13])[c:14]([H:15])[c:16]([H:17])[c:18]([H:19])[c:20]1[H:21])[H:22])([C:23]([H:24])([H:25])[H:26])[C:27]([H:28])([H:29])[H:30],-10.103663700364514
199,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])(\[C:17]([H:18])([H:19])[H:20])[H:21]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[O:11][C:12]([H:13])([H:14])[H:15])[H:16])([C:17]([H:18])([H:19])[H:20])[H:21],-6.065052886376568
505,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[c:15]1[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]1[H:25])([Br:26])[Br:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[c:15]1[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]1[H:25])([Br:26])[Br:27],-9.035163158725586
394,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[H:11])[H:12])(\[Cl:13])[H:14]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[H:11])[H:12])([Cl:13])[H:14],-8.47834890173299
825,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[c:15]1[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]1[H:25])(\[H:26])[C:27]([H:28])([H:29])[H:30]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[c:15]1[c:16]([H:17])[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]1[H:25])([H:26])[C:27]([H:28])([H:29])[H:30],-9.030734824043524
628,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])(\[c:28]1[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]([H:36])[c:37]1[H:38])[C:39]([H:40])([H:41])[H:42]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[H:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27])([c:28]1[c:29]([H:30])[c:31]([H:32])[c:33]([H:34])[c:35]([H:36])[c:37]1[H:38])[C:39]([H:40])([H:41])[H:42],-1.3461433637243805
353,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8](/[C:9](=[O:10])[C:11]([H:12])([H:13])[H:14])[H:15])(\[Cl:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[C:11]([H:12])([H:13])[H:14])[H:15])([Cl:16])[c:17]1[c:18]([H:19])[c:20]([H:21])[c:22]([H:23])[c:24]([H:25])[c:26]1[H:27],-7.710535839450107
507,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([H:12])[H:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24])([Br:25])[Br:26]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([H:12])[H:13])[c:14]1[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]1[H:24])([Br:25])[Br:26],-11.403026232859666
22,[C:1]([H:2])([H:3])=[N+:4]([O-:5])[O-:6].[C:7](=[C:8]([C:9](=[O:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Br:20])([C:21]([H:22])([H:23])[H:24])[C:25]([H:26])([H:27])[H:28]>>[C:1]([H:2])([H:3])([N+:4](=[O:5])[O-:6])[C:7]([C:8](=[C:9]([O-:10])[N:11]([C:12]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[Br:20])([C:21]([H:22])([H:23])[H:24])[C:25]([H:26])([H:27])[H:28],-1.847650817900162
